US06353006B1
A solution of N-(tert-butoxycarbonyl)-N-(2-methylprop-2-enyl)glycine tert-butyl ester (0.26 g, 0.93 mmol) in Et2O (3 mL) was treated with lithium borohydride (0.011 g), then stirred at room temp. overnight. To the resulting mixture was added water (2 mL), then a 1N HCl was added dropwise until gas evolution stopped. The organic phase was washed with a saturated NaHCO3 solution (20 mL), dried (MgSO4), and concentrated under reduced pressure. The residue was purified by chromatography (SiO2, gradient from 10% EtOAc/hex to 50% EtOAc/hex) to give N-(tert-butoxycarbonyl)-N-(2-hydroxyethyl)-1-amino-2-methylprop-2-ene (0.113 g, 57%): TLC (10% EtOAc/hex) Rf0.66.

reactant | N-(tert-butoxycarbonyl)-N-(2-methylprop-2-enyl)glycine tert-butyl ester | 0.93 mmol, 0.26 g | C(C)(C)(C)OC(CN(CC(=C)C)C(=O)OC(C)(C)C)=O | C15H27NO4
reactant | lithium borohydride | 0.011 g | [BH4-].[Li+]
reactant | water | 2 mL | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | Et2O | 3 mL | CCOCC | C4H10O
product | N-(tert-butoxycarbonyl)-N-(2-hydroxyethyl)-1-amino-2-methylprop-2-ene | 0.113 g, 57% | C(C)(C)(C)OC(=O)N(CC(=C)C)CCO | C11H21NO3
